US08604069B2
(A-53-9) 3-(2,2-Dimethylpropyl)cyclobutanecarbaldehyde
To a solution of N-methoxy-N-methyl-3-(2,2-dimethylpropyl)cyclobutanecarboxamide (95.2 g) in toluene (330 mL) was added diisobutylaluminum hydride (1.0M in toluene) (486 mL) dropwise at −78° C. After the mixture was stirred at −78° C. for 3 hr, 1.5 M sulfuric acid (648 mL) was added dropwise to the mixture at ice temperature. The mixture was extracted with toluene and the combined organic layer was washed with 1 M sulfuric acid, water and brine, then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate comprising the title compound was used in the next step.

reactant | N-methoxy-N-methyl-3-(2,2-dimethylpropyl)cyclobutanecarboxamide | 95.2 g | CON(C(=O)C1CC(C1)CC(C)(C)C)C | C12H23NO2
reactant | diisobutylaluminum hydride | 1.0M, 486 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sulfuric acid | 1.5 M, 648 mL | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 330 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2,2-Dimethylpropyl)cyclobutanecarbaldehyde | CC(CC1CC(C1)C=O)(C)C | C10H18O
